*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.005/0.002


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_9_0
+nd_pad_port_9_2
*-- p/g port #: 20/20
+nd_1_0_7600_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_399_1000 nd_1_0_1200_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1200_1000 nd_1_0_2000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2000_1000 nd_1_0_2800_1000 0.016324
rd_1_2_0_0_3 nd_1_0_2800_1000 nd_1_0_3600_1000 0.016324
rd_1_2_0_0_4 nd_1_0_3600_1000 nd_1_0_4400_1000 0.016324
rd_1_2_0_0_5 nd_1_0_4400_1000 nd_1_0_5200_1000 0.016324
rd_1_2_0_0_6 nd_1_0_5200_1000 nd_1_0_6000_1000 0.016324
rd_1_2_0_0_7 nd_1_0_6000_1000 nd_1_0_6800_1000 0.016324
rd_1_2_0_0_8 nd_1_0_6800_1000 nd_1_0_7600_1000 0.016324
rd_1_2_0_0_9 nd_1_0_7600_1000 nd_1_0_8400_1000 0.016324
rd_1_2_0_0_10 nd_1_0_8400_1000 nd_1_0_9200_1000 0.016324
rd_1_2_0_1_0 nd_1_0_399_3000 nd_1_0_1200_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1200_3000 nd_1_0_2000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2000_3000 nd_1_0_2800_3000 0.016324
rd_1_2_0_1_3 nd_1_0_2800_3000 nd_1_0_3600_3000 0.016324
rd_1_2_0_1_4 nd_1_0_3600_3000 nd_1_0_4400_3000 0.016324
rd_1_2_0_1_5 nd_1_0_4400_3000 nd_1_0_5200_3000 0.016324
rd_1_2_0_1_6 nd_1_0_5200_3000 nd_1_0_6000_3000 0.016324
rd_1_2_0_1_7 nd_1_0_6000_3000 nd_1_0_6800_3000 0.016324
rd_1_2_0_1_8 nd_1_0_6800_3000 nd_1_0_7600_3000 0.016324
rd_1_2_0_1_9 nd_1_0_7600_3000 nd_1_0_8400_3000 0.016324
rd_1_2_0_1_10 nd_1_0_8400_3000 nd_1_0_9200_3000 0.016324
rd_1_2_0_2_0 nd_1_0_399_5000 nd_1_0_1200_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1200_5000 nd_1_0_2000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2000_5000 nd_1_0_2800_5000 0.016324
rd_1_2_0_2_3 nd_1_0_2800_5000 nd_1_0_3600_5000 0.016324
rd_1_2_0_2_4 nd_1_0_3600_5000 nd_1_0_4400_5000 0.016324
rd_1_2_0_2_5 nd_1_0_4400_5000 nd_1_0_5200_5000 0.016324
rd_1_2_0_2_6 nd_1_0_5200_5000 nd_1_0_6000_5000 0.016324
rd_1_2_0_2_7 nd_1_0_6000_5000 nd_1_0_6800_5000 0.016324
rd_1_2_0_2_8 nd_1_0_6800_5000 nd_1_0_7600_5000 0.016324
rd_1_2_0_2_9 nd_1_0_7600_5000 nd_1_0_8400_5000 0.016324
rd_1_2_0_2_10 nd_1_0_8400_5000 nd_1_0_9200_5000 0.016324
rd_1_2_0_3_0 nd_1_0_399_7000 nd_1_0_1200_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1200_7000 nd_1_0_2000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2000_7000 nd_1_0_2800_7000 0.016324
rd_1_2_0_3_3 nd_1_0_2800_7000 nd_1_0_3600_7000 0.016324
rd_1_2_0_3_4 nd_1_0_3600_7000 nd_1_0_4400_7000 0.016324
rd_1_2_0_3_5 nd_1_0_4400_7000 nd_1_0_5200_7000 0.016324
rd_1_2_0_3_6 nd_1_0_5200_7000 nd_1_0_6000_7000 0.016324
rd_1_2_0_3_7 nd_1_0_6000_7000 nd_1_0_6800_7000 0.016324
rd_1_2_0_3_8 nd_1_0_6800_7000 nd_1_0_7600_7000 0.016324
rd_1_2_0_3_9 nd_1_0_7600_7000 nd_1_0_8400_7000 0.016324
rd_1_2_0_3_10 nd_1_0_8400_7000 nd_1_0_9200_7000 0.016324
rd_1_2_0_4_0 nd_1_0_399_9000 nd_1_0_1200_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1200_9000 nd_1_0_2000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2000_9000 nd_1_0_2800_9000 0.016324
rd_1_2_0_4_3 nd_1_0_2800_9000 nd_1_0_3600_9000 0.016324
rd_1_2_0_4_4 nd_1_0_3600_9000 nd_1_0_4400_9000 0.016324
rd_1_2_0_4_5 nd_1_0_4400_9000 nd_1_0_5200_9000 0.016324
rd_1_2_0_4_6 nd_1_0_5200_9000 nd_1_0_6000_9000 0.016324
rd_1_2_0_4_7 nd_1_0_6000_9000 nd_1_0_6800_9000 0.016324
rd_1_2_0_4_8 nd_1_0_6800_9000 nd_1_0_7600_9000 0.016324
rd_1_2_0_4_9 nd_1_0_7600_9000 nd_1_0_8400_9000 0.016324
rd_1_2_0_4_10 nd_1_0_8400_9000 nd_1_0_9200_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_399_1000 nd_2_0_399_3000 0.016324
rd_2_1_0_0_1 nd_2_0_399_3000 nd_2_0_399_5000 0.016324
rd_2_1_0_0_2 nd_2_0_399_5000 nd_2_0_399_7000 0.016324
rd_2_1_0_0_3 nd_2_0_399_7000 nd_2_0_399_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1200_1000 nd_2_0_1200_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1200_3000 nd_2_0_1200_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1200_5000 nd_2_0_1200_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1200_7000 nd_2_0_1200_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2000_1000 nd_2_0_2000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2000_3000 nd_2_0_2000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2000_5000 nd_2_0_2000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2000_7000 nd_2_0_2000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_2800_1000 nd_2_0_2800_3000 0.016324
rd_2_1_0_3_1 nd_2_0_2800_3000 nd_2_0_2800_5000 0.016324
rd_2_1_0_3_2 nd_2_0_2800_5000 nd_2_0_2800_7000 0.016324
rd_2_1_0_3_3 nd_2_0_2800_7000 nd_2_0_2800_9000 0.016324
rd_2_1_0_4_0 nd_2_0_3600_1000 nd_2_0_3600_3000 0.016324
rd_2_1_0_4_1 nd_2_0_3600_3000 nd_2_0_3600_5000 0.016324
rd_2_1_0_4_2 nd_2_0_3600_5000 nd_2_0_3600_7000 0.016324
rd_2_1_0_4_3 nd_2_0_3600_7000 nd_2_0_3600_9000 0.016324
rd_2_1_0_5_0 nd_2_0_4400_1000 nd_2_0_4400_3000 0.016324
rd_2_1_0_5_1 nd_2_0_4400_3000 nd_2_0_4400_5000 0.016324
rd_2_1_0_5_2 nd_2_0_4400_5000 nd_2_0_4400_7000 0.016324
rd_2_1_0_5_3 nd_2_0_4400_7000 nd_2_0_4400_9000 0.016324
rd_2_1_0_6_0 nd_2_0_5200_1000 nd_2_0_5200_3000 0.016324
rd_2_1_0_6_1 nd_2_0_5200_3000 nd_2_0_5200_5000 0.016324
rd_2_1_0_6_2 nd_2_0_5200_5000 nd_2_0_5200_7000 0.016324
rd_2_1_0_6_3 nd_2_0_5200_7000 nd_2_0_5200_9000 0.016324
rd_2_1_0_7_0 nd_2_0_6000_1000 nd_2_0_6000_3000 0.016324
rd_2_1_0_7_1 nd_2_0_6000_3000 nd_2_0_6000_5000 0.016324
rd_2_1_0_7_2 nd_2_0_6000_5000 nd_2_0_6000_7000 0.016324
rd_2_1_0_7_3 nd_2_0_6000_7000 nd_2_0_6000_9000 0.016324
rd_2_1_0_8_0 nd_2_0_6800_1000 nd_2_0_6800_3000 0.016324
rd_2_1_0_8_1 nd_2_0_6800_3000 nd_2_0_6800_5000 0.016324
rd_2_1_0_8_2 nd_2_0_6800_5000 nd_2_0_6800_7000 0.016324
rd_2_1_0_8_3 nd_2_0_6800_7000 nd_2_0_6800_9000 0.016324
rd_2_1_0_9_0 nd_2_0_7600_1000 nd_2_0_7600_3000 0.016324
rd_2_1_0_9_1 nd_2_0_7600_3000 nd_2_0_7600_5000 0.016324
rd_2_1_0_9_2 nd_2_0_7600_5000 nd_2_0_7600_7000 0.016324
rd_2_1_0_9_3 nd_2_0_7600_7000 nd_2_0_7600_9000 0.016324
rd_2_1_0_10_0 nd_2_0_8400_1000 nd_2_0_8400_3000 0.016324
rd_2_1_0_10_1 nd_2_0_8400_3000 nd_2_0_8400_5000 0.016324
rd_2_1_0_10_2 nd_2_0_8400_5000 nd_2_0_8400_7000 0.016324
rd_2_1_0_10_3 nd_2_0_8400_7000 nd_2_0_8400_9000 0.016324
rd_2_1_0_11_0 nd_2_0_9200_1000 nd_2_0_9200_3000 0.016324
rd_2_1_0_11_1 nd_2_0_9200_3000 nd_2_0_9200_5000 0.016324
rd_2_1_0_11_2 nd_2_0_9200_5000 nd_2_0_9200_7000 0.016324
rd_2_1_0_11_3 nd_2_0_9200_7000 nd_2_0_9200_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_399_1000 nd_2_0_399_1000 0.005
rvd_1_0_0_1 nd_1_0_1200_1000 nd_2_0_1200_1000 0.005
rvd_1_0_0_2 nd_1_0_2000_1000 nd_2_0_2000_1000 0.005
rvd_1_0_0_3 nd_1_0_2800_1000 nd_2_0_2800_1000 0.005
rvd_1_0_0_4 nd_1_0_3600_1000 nd_2_0_3600_1000 0.005
rvd_1_0_0_5 nd_1_0_4400_1000 nd_2_0_4400_1000 0.005
rvd_1_0_0_6 nd_1_0_5200_1000 nd_2_0_5200_1000 0.005
rvd_1_0_0_7 nd_1_0_6000_1000 nd_2_0_6000_1000 0.005
rvd_1_0_0_8 nd_1_0_6800_1000 nd_2_0_6800_1000 0.005
rvd_1_0_0_9 nd_1_0_7600_1000 nd_2_0_7600_1000 0.005
rvd_1_0_0_10 nd_1_0_8400_1000 nd_2_0_8400_1000 0.005
rvd_1_0_0_11 nd_1_0_9200_1000 nd_2_0_9200_1000 0.005
rvd_1_0_1_0 nd_1_0_399_3000 nd_2_0_399_3000 0.005
rvd_1_0_1_1 nd_1_0_1200_3000 nd_2_0_1200_3000 0.005
rvd_1_0_1_2 nd_1_0_2000_3000 nd_2_0_2000_3000 0.005
rvd_1_0_1_3 nd_1_0_2800_3000 nd_2_0_2800_3000 0.005
rvd_1_0_1_4 nd_1_0_3600_3000 nd_2_0_3600_3000 0.005
rvd_1_0_1_5 nd_1_0_4400_3000 nd_2_0_4400_3000 0.005
rvd_1_0_1_6 nd_1_0_5200_3000 nd_2_0_5200_3000 0.005
rvd_1_0_1_7 nd_1_0_6000_3000 nd_2_0_6000_3000 0.005
rvd_1_0_1_8 nd_1_0_6800_3000 nd_2_0_6800_3000 0.005
rvd_1_0_1_9 nd_1_0_7600_3000 nd_2_0_7600_3000 0.005
rvd_1_0_1_10 nd_1_0_8400_3000 nd_2_0_8400_3000 0.005
rvd_1_0_1_11 nd_1_0_9200_3000 nd_2_0_9200_3000 0.005
rvd_1_0_2_0 nd_1_0_399_5000 nd_2_0_399_5000 0.005
rvd_1_0_2_1 nd_1_0_1200_5000 nd_2_0_1200_5000 0.005
rvd_1_0_2_2 nd_1_0_2000_5000 nd_2_0_2000_5000 0.005
rvd_1_0_2_3 nd_1_0_2800_5000 nd_2_0_2800_5000 0.005
rvd_1_0_2_4 nd_1_0_3600_5000 nd_2_0_3600_5000 0.005
rvd_1_0_2_5 nd_1_0_4400_5000 nd_2_0_4400_5000 0.005
rvd_1_0_2_6 nd_1_0_5200_5000 nd_2_0_5200_5000 0.005
rvd_1_0_2_7 nd_1_0_6000_5000 nd_2_0_6000_5000 0.005
rvd_1_0_2_8 nd_1_0_6800_5000 nd_2_0_6800_5000 0.005
rvd_1_0_2_9 nd_1_0_7600_5000 nd_2_0_7600_5000 0.005
rvd_1_0_2_10 nd_1_0_8400_5000 nd_2_0_8400_5000 0.005
rvd_1_0_2_11 nd_1_0_9200_5000 nd_2_0_9200_5000 0.005
rvd_1_0_3_0 nd_1_0_399_7000 nd_2_0_399_7000 0.005
rvd_1_0_3_1 nd_1_0_1200_7000 nd_2_0_1200_7000 0.005
rvd_1_0_3_2 nd_1_0_2000_7000 nd_2_0_2000_7000 0.005
rvd_1_0_3_3 nd_1_0_2800_7000 nd_2_0_2800_7000 0.005
rvd_1_0_3_4 nd_1_0_3600_7000 nd_2_0_3600_7000 0.005
rvd_1_0_3_5 nd_1_0_4400_7000 nd_2_0_4400_7000 0.005
rvd_1_0_3_6 nd_1_0_5200_7000 nd_2_0_5200_7000 0.005
rvd_1_0_3_7 nd_1_0_6000_7000 nd_2_0_6000_7000 0.005
rvd_1_0_3_8 nd_1_0_6800_7000 nd_2_0_6800_7000 0.005
rvd_1_0_3_9 nd_1_0_7600_7000 nd_2_0_7600_7000 0.005
rvd_1_0_3_10 nd_1_0_8400_7000 nd_2_0_8400_7000 0.005
rvd_1_0_3_11 nd_1_0_9200_7000 nd_2_0_9200_7000 0.005
rvd_1_0_4_0 nd_1_0_399_9000 nd_2_0_399_9000 0.005
rvd_1_0_4_1 nd_1_0_1200_9000 nd_2_0_1200_9000 0.005
rvd_1_0_4_2 nd_1_0_2000_9000 nd_2_0_2000_9000 0.005
rvd_1_0_4_3 nd_1_0_2800_9000 nd_2_0_2800_9000 0.005
rvd_1_0_4_4 nd_1_0_3600_9000 nd_2_0_3600_9000 0.005
rvd_1_0_4_5 nd_1_0_4400_9000 nd_2_0_4400_9000 0.005
rvd_1_0_4_6 nd_1_0_5200_9000 nd_2_0_5200_9000 0.005
rvd_1_0_4_7 nd_1_0_6000_9000 nd_2_0_6000_9000 0.005
rvd_1_0_4_8 nd_1_0_6800_9000 nd_2_0_6800_9000 0.005
rvd_1_0_4_9 nd_1_0_7600_9000 nd_2_0_7600_9000 0.005
rvd_1_0_4_10 nd_1_0_8400_9000 nd_2_0_8400_9000 0.005
rvd_1_0_4_11 nd_1_0_9200_9000 nd_2_0_9200_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_399_1000 0 0.00734871
id_0_0_0_1 nd_1_0_1200_1000 0 0.000830323
id_0_0_0_2 nd_1_0_2000_1000 0 0.00911997
id_0_0_0_3 nd_1_0_2800_1000 0 0.00584402
id_0_0_0_4 nd_1_0_3600_1000 0 0.0142126
id_0_0_0_5 nd_1_0_4400_1000 0 0.0192567
id_0_0_0_6 nd_1_0_5200_1000 0 0.0158021
id_0_0_0_7 nd_1_0_6000_1000 0 0.000973285
id_0_0_0_8 nd_1_0_6800_1000 0 0.0177654
id_0_0_0_9 nd_1_0_7600_1000 0 0.0144654
id_0_0_0_10 nd_1_0_8400_1000 0 0.0110456
id_0_0_0_11 nd_1_0_9200_1000 0 0.00784575
id_0_0_0_12 nd_1_0_399_3000 0 0.0128847
id_0_0_0_13 nd_1_0_1200_3000 0 0.0212414
id_0_0_0_14 nd_1_0_2000_3000 0 0.017859
id_0_0_0_15 nd_1_0_2800_3000 0 0.00294951
id_0_0_0_16 nd_1_0_3600_3000 0 0.0196096
id_0_0_0_17 nd_1_0_4400_3000 0 0.0046414
id_0_0_0_18 nd_1_0_5200_3000 0 0.0129951
id_0_0_0_19 nd_1_0_6000_3000 0 0.00968282
id_0_0_0_20 nd_1_0_6800_3000 0 0.00314668
id_0_0_0_21 nd_1_0_7600_3000 0 0.0231679
id_0_0_0_22 nd_1_0_8400_3000 0 0.00832483
id_0_0_0_23 nd_1_0_9200_3000 0 0.0164947
id_0_0_0_24 nd_1_0_399_5000 0 0.0100377
id_0_0_0_25 nd_1_0_1200_5000 0 0.0182584
id_0_0_0_26 nd_1_0_2000_5000 0 0.00339824
id_0_0_0_27 nd_1_0_2800_5000 0 0.0117143
id_0_0_0_28 nd_1_0_3600_5000 0 0.0050756
id_0_0_0_29 nd_1_0_4400_5000 0 0.0134795
id_0_0_0_30 nd_1_0_5200_5000 0 0.0217962
id_0_0_0_31 nd_1_0_6000_5000 0 0.0151945
id_0_0_0_32 nd_1_0_6800_5000 0 0.0118478
id_0_0_0_33 nd_1_0_7600_5000 0 0.0202025
id_0_0_0_34 nd_1_0_8400_5000 0 0.00536797
id_0_0_0_35 nd_1_0_9200_5000 0 0.0102588
id_0_0_0_36 nd_1_0_399_7000 0 0.0187479
id_0_0_0_37 nd_1_0_1200_7000 0 0.00370596
id_0_0_0_38 nd_1_0_2000_7000 0 0.0121404
id_0_0_0_39 nd_1_0_2800_7000 0 0.00549457
id_0_0_0_40 nd_1_0_3600_7000 0 0.00218566
id_0_0_0_41 nd_1_0_4400_7000 0 0.0106633
id_0_0_0_42 nd_1_0_5200_7000 0 0.0188575
id_0_0_0_43 nd_1_0_6000_7000 0 0.0122405
id_0_0_0_44 nd_1_0_6800_7000 0 0.00904012
id_0_0_0_45 nd_1_0_7600_7000 0 0.00573956
id_0_0_0_46 nd_1_0_8400_7000 0 0.00237965
id_0_0_0_47 nd_1_0_9200_7000 0 0.00745943
id_0_0_0_48 nd_1_0_399_9000 0 0.00414669
id_0_0_0_49 nd_1_0_1200_9000 0 0.0125438
id_0_0_0_50 nd_1_0_2000_9000 0 0.0176105
id_0_0_0_51 nd_1_0_2800_9000 0 0.00267962
id_0_0_0_52 nd_1_0_3600_9000 0 0.010868
id_0_0_0_53 nd_1_0_4400_9000 0 0.0193632
id_0_0_0_54 nd_1_0_5200_9000 0 0.00104931
id_0_0_0_55 nd_1_0_6000_9000 0 0.0210136
id_0_0_0_56 nd_1_0_6800_9000 0 0.00606119
id_0_0_0_57 nd_1_0_7600_9000 0 0.00275335
id_0_0_0_58 nd_1_0_8400_9000 0 0.0195699
id_0_0_0_59 nd_1_0_9200_9000 0 0.016214

*-- intentional decap
cd_add_cap0 nd_1_0_1200_3000 nd0 'dcap_int_val142'
cd_add_cap1 nd_1_0_2800_3000 nd1 'dcap_int_val143'
cd_add_cap2 nd_1_0_4400_3000 nd2 'dcap_int_val144'
cd_add_cap3 nd_1_0_6000_3000 nd3 'dcap_int_val145'
cd_add_cap4 nd_1_0_8400_3000 nd4 'dcap_int_val146'
cd_add_cap5 nd_1_0_1200_7000 nd5 'dcap_int_val147'
cd_add_cap6 nd_1_0_2800_7000 nd6 'dcap_int_val148'
cd_add_cap7 nd_1_0_4400_7000 nd7 'dcap_int_val149'
cd_add_cap8 nd_1_0_6000_7000 nd8 'dcap_int_val150'
cd_add_cap9 nd_1_0_8400_7000 nd9 'dcap_int_val151'
rd_add0 nd0 0 'esr21'
rd_add1 nd1 0 'esr22'
rd_add2 nd2 0 'esr23'
rd_add3 nd3 0 'esr24'
rd_add4 nd4 0 'esr25'
rd_add5 nd5 0 'esr26'
rd_add6 nd6 0 'esr27'
rd_add7 nd7 0 'esr28'
rd_add8 nd8 0 'esr29'
rd_add9 nd9 0 'esr30'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1200_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1200_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2800_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2800_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3600_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3600_5000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4400_3000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4400_7000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5200_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5200_5000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_3000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_7000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7600_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7600_5000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8400_3000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8400_7000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9200_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9200_5000  0.001

.ends chiplet3
